US07691869B2
The title A compound, 7-[2-(t-Butyldimethylsilanyloxy)ethyl]-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-amine (100 mg, 0.3 mmol) and 2-furoic acid hydrazide (76 mg, 0.6 mmol) are taken into 3 mL of n-butanol. The mixture is stirred at 120° C. under N2 for 2 h. The solvent is evaporated under vacuum and the residue is purified by flash chromatography using EtOAc/MeOH (95/5) as eluent to give furan-2-carboxylic acid N′-{2-amino-7-[2-(t-butyldimethylsilanyloxy)ethyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}-hydrazide: LC/MS (M+1=417). 1H NMR (CDCl3, 400 MHz) δ −0.08 (s, 6H), 0.84 (s, 9H), 3.85 (t, 2H, J=4.8 Hz), 4.12 (t, 2H, J=4.8 Hz), 4.81 (brs, 2H, NH2), 6.26 (d, 1H, J=2.4 Hz), 6.51 (m, 1H), 6.74 (d, 1H, J=2.4 Hz), 7.20 (d, 1H, J=2.8 Hz), 7.27 (d, 1H, J=2.8 Hz), 7.49 (s, 1H).

reactant | 7-[2-(t-Butyldimethylsilanyloxy)ethyl]-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-amine | 0.3 mmol, 100 mg | [Si](C)(C)(C(C)(C)C)OCCN1C=CC2=C1N=C(N=C2Cl)N | C14H23ClN4OSi
reactant | 2-furoic acid hydrazide | 0.6 mmol, 76 mg | O1C(=CC=C1)C(=O)NN | C5H6N2O2
solvent | n-butanol | 3 mL | C(CCC)O | C4H10O
product | furan-2-carboxylic acid N′-{2-amino-7-[2-(t-butyldimethylsilanyloxy)ethyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}-hydrazide | NC=1N=C(C2=C(N1)N(C=C2)CCO[Si](C)(C)C(C)(C)C)NNC(=O)C=2OC=CC2 | C19H28N6O3Si
